US08497274B2
(v) Production of N-(7-cyano-6-{3-[(trifluoroacetyl)amino]phenoxy}-1,3-benzothiazol-2-yl)cyclopropanecarboxamide
To a solution of N-{3-[(2-amino-7-cyano-1,3-benzothiazol-6-yl)oxy]phenyl}-2,2,2-trifluoroacetamide (1.5 g, 3.96 mmol) in pyridine (4 mL) was added cyclopropanecarbonyl chloride (467 μL, 5.15 mmol), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure. The obtained residue was diluted with ethyl acetate (200 mL), washed successively with 5% aqueous sodium hydrogen carbonate solution (200 mL) and saturated brine (200 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=30/70→60/40), and the obtained solution was concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to give the title compound (1.26 g, 63%) as a colorless powder.

reactant | N-{3-[(2-amino-7-cyano-1,3-benzothiazol-6-yl)oxy]phenyl}-2,2,2-trifluoroacetamide | 3.96 mmol, 1.5 g | NC=1SC2=C(N1)C=CC(=C2C#N)OC=2C=C(C=CC2)NC(C(F)(F)F)=O | C16H9F3N4O2S
reactant | cyclopropanecarbonyl chloride | 5.15 mmol, 467 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | N-(7-cyano-6-{3-[(trifluoroacetyl)amino]phenoxy}-1,3-benzothiazol-2-yl)cyclopropanecarboxamide | 1.26 g, 63% | C(#N)C1=C(C=CC=2N=C(SC21)NC(=O)C2CC2)OC2=CC(=CC=C2)NC(C(F)(F)F)=O | C20H13F3N4O3S
